US08058447B2
5-(3-Cyclobutylpropanoyl)-4-(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonitrile
A solution of 100 mg (0.49 mmol) of 5-fluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde in ml of 2-propanol is mixed with 50.96 mg (0.49 mmol) of sodium 1-cyanoprop-1-en-2-olate, 81.12 mg (0.49 mmol) of 5-amino-1-cyclobutylhex-4-en-3-one and 0.04 ml (0.73 mmol) of acetic acid and stirred under reflux for 3 h. After cooling, the mixture is concentrated. The residue is taken up in dichloromethane and washed with water. The organic phase is dried over sodium sulfate and concentrated. The resulting residue is crystallized from diethyl ether. The yellow crystals are filtered off with suction and purified further on an Analogix cartridge (F12M) (mobile phase: cyclohexane/ethyl acetate 2:1). 60.2 mg (29.5% of theory) of the title compound are obtained.

reactant | 5-fluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.49 mmol, 100 mg | FC1=C2C(C=C(OC2=C(C=C1)C=O)C)=O | C11H7FO3
reactant | 2-propanol | ml | CC(C)O | C3H8O
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.49 mmol, 50.96 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 5-amino-1-cyclobutylhex-4-en-3-one | 0.49 mmol, 81.12 mg | NC(=CC(CCC1CCC1)=O)C | C10H17NO
reactant | acetic acid | 0.73 mmol, 0.04 ml | C(C)(=O)O | C2H4O2
product | 5-(3-Cyclobutylpropanoyl)-4-(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonitrile | C1(CCC1)CCC(=O)C=1C(C(=C(NC1C)C)C#N)C=1C=CC(=C2C(C=C(OC12)C)=O)F | C25H25FN2O3
